US04806549
A mixture of o-anisidine (22.6 ml, 0.2 mol), triethyl orthoformate (33.3 ml, 0.2 mol) and ethyl butyrylacetate (31.6 ml. 0.2 mol) was heated such that ethanol distilled over slowly. After 2.5 hours the mixture was allowed to cool, diluted with methanol (100 ml) and allowed to crystallise. The N-(2-methoxyphenyl)-2-butyryl-3-(2-methoxyphenylamino)acrylamide by-product was filtered off. Evaporation of the mother liquors and recrystallisation from petroleum ether (40-60) gave ethyl 2-butyryl-3-(2-methoxyphenylamino)acrylate (15.82 g, 27.2%), m.p. 74°-76°.

reactant | o-anisidine | 0.2 mol, 22.6 ml | COC=1C(=CC=CC1)N | C7H9NO
reactant | triethyl orthoformate | 0.2 mol, 33.3 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | ethyl butyrylacetate | 0.2 mol, 31.6 ml | C(CCC)(=O)CC(=O)OCC | C8H14O3
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-butyryl-3-(2-methoxyphenylamino)acrylate | 15.82 g, 27.2% | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)OC | C16H21NO4
